US07875600B2
6-(Isopropoxymethyl)pyridine-2-carbonitrile
A stirred solution of 2-(isopropoxymethyl)pyridine-N-oxide (17.8 g, 0.11 mol) in dichloromethane (200 mL) at room temperature was treated with trimethylsilyl cyamide (17.65 mL, 0.132 mol) and dimethylcarbamyl chloride (12.18 mL, 0.132 mol), heated to 40° C. for 18 h, quenched with 2-M aqueous Na2CO3 solution (400 mL) and stirred for 2 h. The mixture was extracted with dichloromethane (2×200 mL), dried (MgSO4) and concentrated in vacuo to give the title compound as an orange oil; NMR δH (400 MHz, CDCl3) 1.17-1.18 (6H, d, J 6 Hz), 3.67-3.76 (1H, sept J 6 Hz), 4.58 (2H, s), 7.74-7.76 (1H, d, J 8 Hz), 7.92-7.94 (1H, d, J 7.5 Hz) and 8.04-8.08 (1H, t, J 7.5 Hz)

reactant | 2-(isopropoxymethyl)pyridine-N-oxide | 0.11 mol, 17.8 g | C(C)(C)OCC1=[N+](C=CC=C1)[O-] | C9H13NO2
reactant | dimethylcarbamyl chloride | 0.132 mol, 12.18 mL | CN(C(=O)Cl)C | C3H6ClNO
solvent | dichloromethane | 200 mL | ClCCl | CH2Cl2
product | 6-(Isopropoxymethyl)pyridine-2-carbonitrile | C(C)(C)OCC1=CC=CC(=N1)C#N | C10H12N2O
